US04167638
B. 5-(4-Chlorophenoxy)-6-methoxy-8-(4-phthalimido-1-methylbutylamino)-quinoline.
A stirred mixture of 8-amino-5-(4-chlorophenoxy)- 6-methoxyquinoline (6.2 g, 0.02 mole), 4-bromo-1-phthalimidopentane (6.0 g, 0.02 mole), and triethylamine (2.0 g, 0.02 mole) was heated at 130°-135° for 12 hr. The cooled mixture was extractively treated with arm acetone (50 ml), cooled, and triethylamine hydrobromide collected (3.2 g, 89%). The filtrates were concentrated to dryness, and the residues taken up in chloroform, then treated with 48% hydrobromic acid. The chloroform layer was dried and concentrated, then absolute ether added to precipitate the hydrobromide of the desired compound (8.2 g, 70% yield). As obtained, the hydrobromide melted 194°-198°; following crystallization from ethanol, mp 214°-215°. It analyzed as a monohydrate. The base was liberated as a crystalline solid of mp 75°-77°.

reactant | 8-amino-5-(4-chlorophenoxy)- 6-methoxyquinoline | 0.02 mole, 6.2 g | NC=1C=C(C(=C2C=CC=NC12)OC1=CC=C(C=C1)Cl)OC | C16H13ClN2O2
reactant | 4-bromo-1-phthalimidopentane | 0.02 mole, 6.0 g | BrC(CCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C13H14BrNO2
reactant | triethylamine | 0.02 mole, 2.0 g | C(C)N(CC)CC | C6H15N
reactant | hydrobromide | Br | BrH
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 5-(4-Chlorophenoxy)-6-methoxy-8-(4-phthalimido-1-methylbutylamino)-quinoline | 8.2 g, 70% yield | ClC1=CC=C(OC2=C3C=CC=NC3=C(C=C2OC)NC(CCCN2C(C=3C(C2=O)=CC=CC3)=O)C)C=C1 | C29H26ClN3O4
